US06518273B1
(S)-N-(2-{N-[(1,1-Dimethylethoxy)carbonyl]methylamino}-1-oxo-3-phenylpropyl)glycine methyl ester
N-[(1,1-Dimethylethoxy)carbonyl]-N-methyl-L-phenylalanine dicyclohexylamine salt (3.0 g, 6.5 mmol) was partitioned between dichloromethane (100 mL) and aqueous hydrochloric acid (0.1M, 100 mL). The layers were separated and the organic fraction was washed with aqueous hydrochloric acid (0.1M, 100 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane (30 mL), cooled to 0° C. and N-methylmorpholine (0.72 mL, 0.66 g, 6.5 mmol) then isobutyl chloroformate (0.84 mL, 0.89 g, 6.5 mmol) were added. The mixture was stirred at 0° C. for 10 min., then N-methylmorpholine (0.72 mL, 0.66 g, 6.5 mmol) and glycine methyl ester hydrochloride (0.82 g, 6.5 mmol) were added. The mixture was stirred at 0° C. for 1 h., then at room temperature for 2 h. Water (100 mL) was added and the mixture was extracted with ethyl acetate (100 mL). The organic fraction was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (50:50), to give the title compound as a colorless gum (2.28 g, 100%). 1H NMR (250 MHz, CDCl3) mixture of two amide rotamers; δ7.28-7.23 (5H, m), 6.66, 6.40 (total 1H, each br s), 5.01, 4.80 (total 1H, each m), 4.24-3.82 (2H, m), 3.75 (3H, s), 3.39 (1H, m), 2.94 (1H, m), 2.81, 2.76 (total 3H, each s), and 1.37, 1.27 (total 9H, each s). m/z (ES+) 351 (M+1).

reactant | N-[(1,1-Dimethylethoxy)carbonyl]-N-methyl-L-phenylalanine dicyclohexylamine salt | 6.5 mmol, 3.0 g | C1(CCCCC1)NC1CCCCC1.CC(C)(OC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)O)C)C
reactant | hydrochloric acid | 0.1M, 100 mL | Cl | ClH
reactant | N-methylmorpholine | 6.5 mmol, 0.72 mL, 0.66 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 6.5 mmol, 0.84 mL, 0.89 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 6.5 mmol, 0.72 mL, 0.66 g | CN1CCOCC1 | C5H11NO
reactant | glycine methyl ester hydrochloride | 6.5 mmol, 0.82 g | Cl.COC(CN)=O
solvent | Water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-N-(2-{N-[(1,1-Dimethylethoxy)carbonyl]methylamino}-1-oxo-3-phenylpropyl)glycine methyl ester | 2.28 g, 100% | COC(CNC([C@H](CC1=CC=CC=C1)NCC(=O)OC(C)(C)C)=O)=O | C18H26N2O5
